US08247451B2
To a solution of (2R,3S)-2-(3-phenyl-1-propyl)-3-(formyl-2-tetrahydropyranyloxyamino)buta noic acid (5.5 g, 15.76 mmol) in DMF (20 mL) is added BOP reagent (7.66 g, 17.34 mmol), HOBt (2.34 g, 17.34 mmol), and NMM (4.78 g, 47.28 mmol). After 30 min, addition of (2S)-2-Amino-3,3-dimethylbutanoic acid methylamide (3.4 g, 23.64) occurs and the resulting solution is stirred at 25.degree. C. for 20 h. The reaction mixture is poured into ethyl acetate/hexanes (1:1, 200 mL) and washed sequentially with 1 M hydrochloric acid, 1 M aqueous sodium carbonate, and saturated aqueous sodium chloride. The organic layer is dried over magnesium sulfate, concentrated in vacuo, and purified by silica gel chromatography (elution with 2:1 ethyl acetate-hexane) to provide (2R,3S)-3-(Formyl-2-tetrahydropyranyloxyamino)-2-(3-phenyl-1-propyl)butanoic acid [(1S)-2,2-dimethyl-1-(methylcarbamoyl)-1-propyl]amide as a white solid (2.7 g, 36% yield).

reactant | (2R,3S)-2-(3-phenyl-1-propyl)-3-(formyl-2-tetrahydropyranyloxyamino)buta noic acid | 15.76 mmol, 5.5 g | C1(=CC=CC=C1)CCC[C@@H](C(=O)O)[C@H](C)N(OC1OCCCC1)C=O | C19H27NO5
reactant | BOP reagent | 17.34 mmol, 7.66 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 17.34 mmol, 2.34 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 47.28 mmol, 4.78 g | CN1CCOCC1 | C5H11NO
reactant | (2S)-2-Amino-3,3-dimethylbutanoic acid methylamide | 3.4 g | CNC([C@H](C(C)(C)C)N)=O | C7H16N2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (2R,3S)-3-(Formyl-2-tetrahydropyranyloxyamino)-2-(3-phenyl-1-propyl)butanoic acid [(1S)-2,2-dimethyl-1-(methylcarbamoyl)-1-propyl]amide | 2.7 g, 36% yield | CC([C@@H](C(NC)=O)NC([C@@H]([C@H](C)N(OC1OCCCC1)C=O)CCCC1=CC=CC=C1)=O)(C)C | C26H41N3O5
